US07923450B2
a) 1-(2-Fluoro-4-nitro-phenyl)-4-methyl-1H-imidazole
3,4-Difluoronitrobenzene (7.97 g, 50 mmol), 2-methylimidazole (4.51 g, 55 mmol) and N,N-diisopropylethylamine (16.16 g, 125 mmol) were dissolved in acetonitrile (80 mL) and the reaction was heated to reflux for 24 hours under an atmosphere of nitrogen. The solvent was evaporated under reduced pressure and the residue was crystallized from a mixture of ethyl acetate and heptane to yield the title compound (4.66 g, 42%) as a pale-yellow solid. MS ISP (m/e): 222.1 (100) [(M+H)+]. 1H NMR (DMSO-D6, 300 MHz): δ (ppm)=8.42 (d, 1H), 8.21 (d, 1H), 8.11 (s, 1H), 7.95 (t, 1H), 7.43 (s, 1H), 2.19 (s, 3H).

reactant | 3,4-Difluoronitrobenzene | 50 mmol, 7.97 g | FC=1C=C(C=CC1F)[N+](=O)[O-] | C6H3F2NO2
reactant | 2-methylimidazole | 55 mmol, 4.51 g | CC=1NC=CN1 | C4H6N2
reactant | N,N-diisopropylethylamine | 125 mmol, 16.16 g | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 80 mL | C(C)#N | C2H3N
product | 1-(2-Fluoro-4-nitro-phenyl)-4-methyl-1H-imidazole | 4.66 g, 42% | FC1=C(C=CC(=C1)[N+](=O)[O-])N1C=NC(=C1)C | C10H8FN3O2
